US07345050B2
2-[4-(3-Ethoxybenzoyl)anilino]-4-(imidazo-[1,2-a]-pyridin-3-yl)pyrimidine
The title compound was prepared from 2-amino-4-(imidazo-[1,2-a]pyridin-3-yl)pyrimidine and 4-bromo-3′-ethoxybenzophenone following the general method of Example 2. The crude product was purified by column chromatography on silica gel using chloroform/ethanol, 98:2, as the eluent affording 0.11 g (48% yield) of the title compound as a yellow solid: mp 197.3-197.5° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.21 (s, 1 H), 10.17 (d, J=6.8 Hz, 1 H), 8.68 (s, 1 H), 8.53 (d, J=5.4 Hz, 1 H), 8.00 (d, J=8.5 Hz, 2 H), 7.82-7.79 (m, 3 H), 7.55-7.51 (m, 2 H), 7.47 (t, J=8.2 Hz, 1 H), 7.28 (d, J=7.5 Hz, 1 H), 7.23-7.17 (m, 3 H), 4.10 (q, J=6.8 Hz, 2 H), 1.36 (t, J=6.9 Hz, 3 H); 13C NMR (400 MHz, DMSO-d6) δ 194.4, 159.4, 158.7, 157.6, 157.4, 148.4, 145.4, 139.7, 139.4, 131.6, 129.9, 129.8, 129.8, 127.5, 22.0, 121.3, 118.6, 118.2, 117.8, 114.8, 114.2, 108.6, 63.6, 15.0; MS (ESP) m/z 436 (M+1).

reactant | 2-amino-4-(imidazo-[1,2-a]pyridin-3-yl)pyrimidine | NC1=NC=CC(=N1)C1=CN=C2N1C=CC=C2 | C11H9N5
reactant | 4-bromo-3′-ethoxybenzophenone | BrC1=CC=C(C(=O)C2=CC(=CC=C2)OCC)C=C1 | C15H13BrO2
product | 2-[4-(3-Ethoxybenzoyl)anilino]-4-(imidazo-[1,2-a]-pyridin-3-yl)pyrimidine | 0.11 g, 48% yield | C(C)OC=1C=C(C(=O)C2=CC=C(NC3=NC=CC(=N3)C3=CN=C4N3C=CC=C4)C=C2)C=CC1 | C26H21N5O2
